US07365085B2
(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-(3-o-tolyloxy-propyl)-amine
To a solution of 3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propan-1-ol (0.065 g, 0.145 mmol) in toluene (4 ml) at ambient temperature was added o-cresol (0.020 g, 0.186 mmol) under Argon with stirring. The mixture was treated with polymer bound PPh3 (0.076 g, 0.228 mmol). After 15 minutes of stirring, the mixture was treated with DIAD (0.036 g, 0.178 mmol) and was stirred at ambient temperature overnight. The reaction mixture was filtered then concentrated, in vacuo, to dryness. The oil was dissolved in DMSO and was purified via reverse-phase HPLC to yield the title compound (0.033 g, 42%); MS (ES+) m/e 539 [M+H]+.

reactant | 3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propan-1-ol | 0.145 mmol, 0.065 g | ClC1=C(CN(CCCO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C25H25ClF3NO
reactant | o-cresol | 0.186 mmol, 0.020 g | C1(=CC=CC=C1O)C | C7H8O
reactant | PPh3 | 0.228 mmol, 0.076 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.178 mmol, 0.036 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-(3-o-tolyloxy-propyl)-amine | 0.033 g, 42% | ClC1=C(CN(CCCOC2=C(C=CC=C2)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C32H31ClF3NO
